US06048864
(e) 4-Amino-6-benzyloxy-2-chloro-7-methoxyquinazoline
N,N-Dimethyl formamide (7.9 ml, 0.10 mol) was added dropwise to phosphorus oxychloride (47.9 ml, 0.52 mol) with stirring. After 10 minutes, 4-amino-6-benzyloxy-2-hydroxy-7-methoxyquinazoline (16.4 g, 0.055 mol) was added portionwise and the resulting mixture heated at 90° C. for 1.5 hours, then cooled and poured into ethyl acetate (750 ml). The mixture was neutralised by the portionwise addition of aqueous sodium carbonate and the phases were separated. The organic layer was evaporated to dryness and the residue combined with the organic phase which was then treated with aqueous sodium hydroxide to basify (pH10) and the mixture was heated at 90° C. for 2 hours. After cooling, the mixture was partitioned between dichloromethane (11) and water (11), the organic phase washed with water, dried over MgSO4 and evaporated to give a pale yellow solid. Trituration with isopropanol afforded the subtitle compound as a colourless solid (4.64 g, 27%). Rf 0.64 (ethyl acetate:methanol 95:5, v/v). MS m/z 316, 318 (MH+).

reactant | N,N-Dimethyl formamide | 0.10 mol, 7.9 ml | CN(C=O)C | C3H7NO
reactant | phosphorus oxychloride | 0.52 mol, 47.9 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 4-amino-6-benzyloxy-2-hydroxy-7-methoxyquinazoline | 0.055 mol, 16.4 g | NC1=NC(=NC2=CC(=C(C=C12)OCC1=CC=CC=C1)OC)O | C16H15N3O3
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | isopropanol | C(C)(C)O | C3H8O
solvent | ethyl acetate | 750 ml | C(C)(=O)OCC | C4H8O2
product | 4-Amino-6-benzyloxy-2-chloro-7-methoxyquinazoline | 4.64 g, 27% | NC1=NC(=NC2=CC(=C(C=C12)OCC1=CC=CC=C1)OC)Cl | C16H14ClN3O2
